US06660744B1
A mixture of 4-bromobenzophenone (10.0 g, 0.0383 mol) and hydroxylamine hydrochloride (13.3 g, 0.192 mol) was heated in a mixture of ethanol (250 mL) and pyridine (50 mL) at reflux for 2 hours under an atmosphere of nitrogen. The solvents were removed under the reduced pressure and the residue was partitioned between water (300 mL) and dichloromethane (300 mL). The water phase was further extracted with dichloromethane twice (180 mL each) and the combined organic extracts were dried over magnesium sulfate. The solvent was removed under the reduced pressure and the residue was purified by flash chromatography on silica gel using ethyl acetate/n-heptane (1:9) as mobile phase to yield (4-bromophenyl)(phenyl)methanone oxime as a white solid (9.93 g, 0.036 mol): 1H NMR (DMSO-d6, 400 MHz) 7.66 (d, 1H), 7.57(d, 1H), 7.33 (m, 7H) TLC (ethyl acetate/heptane 1:5) Rf 0.38.

reactant | 4-bromobenzophenone | 0.0383 mol, 10.0 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | hydroxylamine hydrochloride | 0.192 mol, 13.3 g | Cl.NO
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (4-bromophenyl)(phenyl)methanone oxime | 0.036 mol, 9.93 g | BrC1=CC=C(C=C1)C(=NO)C1=CC=CC=C1 | C13H10BrNO
